US05447950
(1) 7,10-Dihydroxy-2-[2-(dimethylamino)-ethyl]-5-[[2-(dimethylamino)ethyl]amino]anthra-[1,9-cd]pyrazol-6(2H)-one
0.35 g (0.59 mmol) of 2-[2-(dimethylamino)-ethyl]-5-[[2-(dimethylamino)ethyl]amino]-7,10-bis(phenylmethoxy)-anthra[1,9-cd]pyrazol-6(2H)-one is dissolved in cold, dry dichloromethane (4 ml) and boron trichloride (4 ml, 1M solution in dichloromethane) is added dropwise over 30 minutes under argon. The reaction mixture is maintained at 0°-5° C. for 1 hour and then treated dropwise with cold methanol under argon. The mixture is then maintained at room temperature for 2 hours and then evaporated to dryness in vacuo. The resulting crude hydrochloride salt is dissolved in a minimum volume of methanol and then chromatographed on a column of silica gel (60A) using an eluting solvent of dichloromethane:methanol (80:20 v/v) and then dichloromethane:methanol:triethylamine (80:20:1 v/v). The major red band is collected and evaporated in vacuo to yield 0.115 g of the title compound as a red solid, m.p. 101 C; λmax (methanol) (E/cm/M) 580 nm (11200), 334 nm (7463), 290 nm (5667).

reactant | 2-[2-(dimethylamino)-ethyl]-5-[[2-(dimethylamino)ethyl]amino]-7,10-bis(phenylmethoxy)-anthra[1,9-cd]pyrazol-6(2H)-one | 0.59 mmol, 0.35 g | CN(CCN1N=C2C3=C1C=CC(=C3C(C3=C(C=CC(=C32)OCC3=CC=CC=C3)OCC3=CC=CC=C3)=O)NCCN(C)C)C | C36H39N5O3
reactant | dichloromethane | 4 ml | ClCCl | CH2Cl2
reactant | boron trichloride | 1M, 4 ml | B(Cl)(Cl)Cl | BCl3
solvent | methanol | CO | CH4O
product | 7,10-Dihydroxy-2-[2-(dimethylamino)-ethyl]-5-[[2-(dimethylamino)ethyl]amino]anthra-[1,9-cd]pyrazol-6(2H)-one | 0.115 g | OC1=C2C(C3=C(C=CC=4N(N=C(C43)C2=C(C=C1)O)CCN(C)C)NCCN(C)C)=O | C22H27N5O3
